US04476132
2.6 g of a sodium hydride-mineral oil dispersion (60% strength) are added in portions at room temperature, while stirring and with the introduction of nitrogen gas, to a solution of 6.1 g of malonic acid diethyl ester in 210 ml of anhydrous dimethylformamide. The mixture is stirred for 30 minutes at room temperature and 30 minutes at 120° and cooled to room temperature, and a solution of 14.0 g of N-allyl-5-methoxycarbonylisatic acid anhydride in 140 ml of anhydrous dimethylformamide is added. The reaction mixture is then stirred for 4 hours at 120°, cooled and concentrated to dryness by evaporation at 0.13 mbar and 60°. 350 ml of water are added to the residue and extraction is carried out twice with 120 ml of methylene chloride each time. The aqueous phase is acidified at 0° with 2N hydrochloric acid. The separated oil is extracted three times with 170 ml of methylene chloride each time. The combined organic phases are washed with 50 ml of water, dried over magnesium sulphate and concentrated to dryness by evaporation under reduced pressure. The residue is then crystallised from methylene chloride/petroleum ether. 1-Allyl-6-methoxycarbonyl-4-hydroxycarbostyril-3-carboxylic acid ethyl ester having a melting point of 123°-125° is obtained.

reactant | sodium hydride | 2.6 g | [H-].[Na+]
reactant | malonic acid diethyl ester | 6.1 g | C(C)OC(CC(=O)OCC)=O | C7H12O4
reactant | N-allyl-5-methoxycarbonylisatic acid anhydride | 14.0 g | C(C=C)NC=1C(=CC(=CC1)C(=O)OC)C(=O)C(=O)OC(C(C=1C(NCC=C)=CC=C(C1)C(=O)OC)=O)=O | C26H24N2O9
solvent | dimethylformamide | 210 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 140 ml | CN(C=O)C | C3H7NO
product | 1-Allyl-6-methoxycarbonyl-4-hydroxycarbostyril-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(N(C2=CC=C(C=C2C1O)C(=O)OC)CC=C)=O | C17H17NO6
